US04309425
To a suspension of 0.25 g sodium hydride in 20 ml anhydrous THF was added 3.2 g of 2-[2'-chloro-5'-(trifluoromethyl)anilino]-3,5-dinitrobenzotrifluoride, in portions, at 10° to 20° C. After stirring for 30 minutes, a solution of 2 g of N-chlorothio-N-methyl-p-toluenesulfonamide in 20 ml dry THF was added rapidly at a temperature below -20° C. The mixture was stirred in an ice bath for 30 minutes, then quenched by careful addition of ether and water. The organic phase was washed once with water, dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated in vacuo. The resultant oil was crystallized from a mixture of hexane and chlorobutane to give 3.2 g of N-[N-[2-chloro-5-(trifluoromethyl)-phenyl]-N-[2,4-dinitro-6-(trifluoromethyl)phenyl]-aminothio]-N,4-dimethylbenzenesulfonamide, mp 142.5°-144° C.

reactant | sodium hydride | 0.25 g | [H-].[Na+]
reactant | 2-[2'-chloro-5'-(trifluoromethyl)anilino]-3,5-dinitrobenzotrifluoride | 3.2 g | ClC1=C(NC2=C(C=C(C=C2[N+](=O)[O-])[N+](=O)[O-])C(F)(F)F)C=C(C=C1)C(F)(F)F | C14H6ClF6N3O4
reactant | N-chlorothio-N-methyl-p-toluenesulfonamide | 2 g | ClSN(S(=O)(=O)C1=CC=C(C=C1)C)C | C8H10ClNO2S2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | N-[N-[2-chloro-5-(trifluoromethyl)-phenyl]-N-[2,4-dinitro-6-(trifluoromethyl)phenyl]-aminothio]-N,4-dimethylbenzenesulfonamide | 3.2 g | ClC1=C(C=C(C=C1)C(F)(F)F)N(SN(S(=O)(=O)C1=CC=C(C=C1)C)C)C1=C(C=C(C=C1C(F)(F)F)[N+](=O)[O-])[N+](=O)[O-] | C22H15ClF6N4O6S2
